US04064239
4-Benzylamino-6-(1,2,2-trichlorovinyl)-1,3-benzenedi-sulfonamide
A mixture of 0.31 g. of 4-bromo-6-trichlorovinyl-1,3-benzenedisulfonamide and 0.76 ml. of benzylamine is stirred at 100° C for 2 hours and then added to 25 ml. of aqueous acetic acid and cooled in ice. A precipitate is collected by filtration which weighs 0.26 g. after drying, which gives after recrystallization from a ethylacetate/benzene/petroleum benzene mixture 0.17 g. of 4-benzylamino-6-(1,2,2-trichlorovinyl)-1,3-benzenedisulfonamide with m.p. 188°-190° C.

reactant | 4-bromo-6-trichlorovinyl-1,3-benzenedisulfonamide | BrC1=C(C=C(C(=C1)C(=C(Cl)Cl)Cl)S(=O)(=O)N)S(=O)(=O)N | C8H6BrCl3N2O4S2
reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-Benzylamino-6-(1,2,2-trichlorovinyl)-1,3-benzenedi-sulfonamide | C(C1=CC=CC=C1)NC1=C(C=C(C(=C1)C(=C(Cl)Cl)Cl)S(=O)(=O)N)S(=O)(=O)N | C15H14Cl3N3O4S2
